US07923561B2
4-Fluoro-N-[2-((R)-indan-1-ylamino)-quinolin-5-yl]-benzamide
The title compound, MS: m/e=398.1 (M+H+), was prepared in accordance with the general method of example 45 from 5-nitro-2-chloroquinoline, (R)-1-aminoindane and 4-fluorobenzoyl chloride.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | (R)-1-aminoindane | N[C@@H]1CCC2=CC=CC=C12 | C9H11N
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 4-Fluoro-N-[2-((R)-indan-1-ylamino)-quinolin-5-yl]-benzamide | FC1=CC=C(C(=O)NC2=C3C=CC(=NC3=CC=C2)N[C@@H]2CCC3=CC=CC=C23)C=C1 | C25H20FN3O
